US06384041B1
Phosphorous oxychloride (21 mL) was carefully added to a mixture of 5.66 g (27.0 mmol) of 1,7-dihydro-6-ethyl-2-(methylthio)-4H-pyrrolo[2,3-d]pyrimidin-4-one and 1.70 mL of N,N-dimethylaniline. The reaction was heated to 95° C. for 12 hours. At this time the reaction was cooled and concentrated under vacuum. The residue was combined with 60 g of ice and stirred for 1 hour. The solids were collected by filtration, washed with 30 mL of water and suspended in 100 mL of water. The solids were again collected, washed with 30 mL of water, and dried in vacuo (40° C., 10 torr) to provide 5.50 g (89.6%) of 2-(methylthio)-4-chloro-6-ethyl-1H-pyrrolo[2,3-d]pyrimidine as a yellow solid. nmr (500 MHz, dmso-d6) δ1.24 (t, J=7.5 Hz, 3H), 2.52 (s, 3H), 2.70 (q, J=7.5 Hz, 2H), 6.21 (s, 1H), 12.27 (s, 1H)

reactant | Phosphorous oxychloride | 21 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1,7-dihydro-6-ethyl-2-(methylthio)-4H-pyrrolo[2,3-d]pyrimidin-4-one | 27.0 mmol, 5.66 g | C(C)C1=CC2=C(NC(=NC2=O)SC)N1 | C9H11N3OS
reactant | N,N-dimethylaniline | 1.70 mL | CN(C1=CC=CC=C1)C | C8H11N
product | 2-(methylthio)-4-chloro-6-ethyl-1H-pyrrolo[2,3-d]pyrimidine | 5.50 g, 89.6% | CSC1=NC(=C2C(N1)=NC(=C2)CC)Cl | C9H10ClN3S
